US08686044B2
Preparation of 2-chlorothiazole-4-carboxylic acid
To a solution of 2.84 g (19.7 mmol) of 2-aminothiazole-4-carboxylic acid in 30 ml of 1,4-dioxane was added 50 ml of concentrated hydrochloric acid, followed by cooling to 0° C., and 10 ml of an aqueous solution of 2.04 g (29.6 mmol) of sodium nitrite was added charged dropwise thereto at 0° C. to 5° C. The reaction liquid was stirred at 0° C. for 2 hours, and then 2.93 g (29.6 mmol) of copper chloride was charged in separate portions thereto. The reaction liquid was returned to room temperature, followed by stirring for 8 hours. To the reaction liquid were added water and ethyl acetate, followed by extraction with ethyl acetate four times. The organic layer was washed with saturated brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to prepare 1.77 g (yield 55%) of a target compound.

reactant | 2-aminothiazole-4-carboxylic acid | 19.7 mmol, 2.84 g | NC=1SC=C(N1)C(=O)O | C4H4N2O2S
reactant | hydrochloric acid | 50 ml | Cl | ClH
reactant | sodium nitrite | 29.6 mmol, 2.04 g | N(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | copper chloride | 29.6 mmol, 2.93 g | [Cu](Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chlorothiazole-4-carboxylic acid | 1.77 g, yield 55% | ClC=1SC=C(N1)C(=O)O | C4H2ClNO2S
